US04006182
Into a mixture of 87 gm of N-ethylacetamide and 82 gm of phosphorous acid, hydrogen chloride was introduced for 8 hours. During this time the mixture was stirred and the temperature was held at 150° - 160° C. The reaction mixture was then treated analogously to Example 1, and the N-ethyl-1-aminoethane- 1,1 -diphosphonic acid product was obtained. The yield was 36.5 gm.

reactant | N-ethylacetamide | 87 gm | C(C)NC(C)=O | C4H9NO
reactant | phosphorous acid | 82 gm | P(O)(O)O | H3O3P
reactant | hydrogen chloride | Cl | ClH
product | N-ethyl-1-aminoethane- 1,1 -diphosphonic acid | C(C)NC(C)(P(O)(=O)O)P(O)(=O)O | C4H13NO6P2
